US07189850B2
a) 1-(4-Oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-8-yl)-2-phenyl-cyclohexanecarbonitrile
To a mixture of 0.26 g (1.15 mmol) 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one in 2 ml AcOH were added 0.2 g (1.15 mmol) rac-2-phenylcyclohexanone followed by the dropwise addition of 0.86 ml (5.75 mmol) trimethylsilyl cyanide. The resulting mixture was heated to 80° C. overnight. The reaction mixture was poured onto 200 ml iced sodium hydroxide (25%,) and the resulting colorless solid filtered off. The solid was dissolved in 50 ml dichloromethane and washed with 40 ml water, dried over Na2SO4, filtered and evaporated: 52 mg 1-(4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-8-yl)-2-phenyl-cyclohexane-carbonitrile as colorless solid; MS (ISP): 415.4 MH+.

reactant | 1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 1.15 mmol, 0.26 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | rac-2-phenylcyclohexanone | 1.15 mmol, 0.2 g | C1(=CC=CC=C1)C1C(CCCC1)=O | C12H14O
reactant | trimethylsilyl cyanide | 5.75 mmol, 0.86 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | AcOH | 2 ml | CC(=O)O | C2H4O2
product | 1-(4-Oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-8-yl)-2-phenyl-cyclohexanecarbonitrile | O=C1NCN(C12CCN(CC2)C2(C(CCCC2)C2=CC=CC=C2)C#N)C2=CC=CC=C2 | C26H30N4O
